US03962223
A solution of 70.8 g of potassium tert.-butylate in 500 ml of tetrahydrofuran was added over 30 minutes under an inert atmosphere to 111 g of tert.-butyl dichloroacetate and 35.5 g of acetone at 0°C and after letting the mixture return to room temperature, the mixture was stirred for 1 hour and poured into iced water. The mixture was extracted with petroleum ether and the extract was washed twice with water and dried over sodium sulfate. 40 g of alumina were added thereto and after stirring, the mixture was filtered to remove mineral products. The solvent was removed from the filtrate by distillation under reduced pressure to obtain 116.5 g of tert.-butyl 2-chloro-2,3-epoxy-3-methyl-butanoate in the form of a colorless liquid soluble in the usual organic solvents and insoluble in water.

reactant | tert.-butyl dichloroacetate | 111 g | ClC(C(=O)OC(C)(C)C)Cl | C6H10Cl2O2
reactant | acetone | 35.5 g | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | tert.-butyl 2-chloro-2,3-epoxy-3-methyl-butanoate | 116.5 g | ClC1(C(=O)OC(C)(C)C)C(C)(C)O1 | C9H15ClO3
